US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 51 using (S)-4-amino-6-methoxythiochromane-7-carboxylic acid methyl ester (1.10 g), potassium carbonate (840 mg) and di-tert-butyldicarbonate (1.14 g), the objective (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester (1.23 g) was obtained as colorless crystals.

reactant | (S)-4-amino-6-methoxythiochromane-7-carboxylic acid methyl ester | 1.10 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)N)OC | C12H15NO3S
reactant | potassium carbonate | 840 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 1.14 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester | 1.23 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C)OC | C17H23NO5S
